US03959308
A solution of 16 grams (0.10 mole) of 1-naphthyl hydrazine, 15.1 grams (0.10 moles) of ethyl isonicotinate and 300 ml. of isopropanol are stirred and refluxed for 48 hours. The solvent is removed in vacuo and the resultant 2-(1-naphthyl)-isonicotinic acid hydrazide is added to 125 ml. of phosphorous oxychloride and stirred and refluxed for about 15 hours. The reaction mixture is then concentrated in vacuo and the resultant simi-solid dissolved in about 250 ml. methylene dichloride. The methylene dichloride layer is washed with 100 ml of cold 2N potassium hydroxide, 100 ml. of water, dried with magnesium sulfate, filtered and concentrated in vacuo. Crystallization from ethanol/ether yields 3-(4-pyridyl)-2H-naphtho[1,2-c]pyrazole, m.p. 271°-273°.

reactant | 1-naphthyl hydrazine | 0.10 mole, 16 grams | C1(=CC=CC2=CC=CC=C12)NN | C10H10N2
reactant | ethyl isonicotinate | 0.10 moles, 15.1 grams | C(C1=CC=NC=C1)(=O)OCC | C8H9NO2
solvent | isopropanol | C(C)(C)O | C3H8O
product | 3-(4-pyridyl)-2H-naphtho[1,2-c]pyrazole | N1=CC=C(C=C1)C1=C2C(=NN1)C1=CC=CC=C1C=C2 | C16H11N3
